US07176227B2
Synthesis of (3-cyano-propyl)-triphenyl-phosphonium bromide
Triphenylphosphine (1.4789 g) was dissolved in anhydrous toluene (44.4 ml) and then added with 4-bromo-butyronitrile (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (834.7 mg), followed by thermal reflux for 22 hours. After the reaction, a precipitated product was filtrated. The precipitate obtained through filtration was washed with toluene and thermally dried under reduced pressure, thereby obtaining the subject compound (1.1697 g) as a white solid.

reactant | Triphenylphosphine | 1.4789 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-butyronitrile | 834.7 mg | BrCCCC#N | C4H6BrN
solvent | toluene | 44.4 ml | C1(=CC=CC=C1)C | C7H8
product | (3-cyano-propyl)-triphenyl-phosphonium bromide | 1.1697 g | [Br-].C(#N)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H21NP.BrH/c23-18-10-11-19-24(20-12-4-1-5-13-20,21-14-6-2-7-15-21)22-16-8-3-9-17-22;/h1-9,12-17H,10-11,19H2;1H/q+1;/p-1
